US07074800B1
Under nitrogen, to a solution of 2,3-dimethyl-5-hydroxyindole (643 mg, 4 mmol), in DMF (10 ml) was added potassium carbonate (690 mg, 5 mmol). After stirring for 15 minutes at ambient temperature, 7-benzyloxy-4-chloro-6-methoxyquinazoline (1 g, 3.33 mmol), (prepared as described for the starting material in Example 1), was added. The mixture was heated at 90° C. for 2 hours followed by 30 minutes at 95° C. After cooling, the mixture was poured onto water (100 ml) cooled at 5° C. The precipitate was filtered, washed with water, followed by ether and dried under vacuum to give 7-benzyloxy-4-(2,3-dimethylindol-5-yloxy)-6-methoxyquinazoline (1.4 g, 95%).

reactant | 2,3-dimethyl-5-hydroxyindole | 4 mmol, 643 mg | CC=1NC2=CC=C(C=C2C1C)O | C10H11NO
reactant | potassium carbonate | 5 mmol, 690 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 3.33 mmol, 1 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-benzyloxy-4-(2,3-dimethylindol-5-yloxy)-6-methoxyquinazoline | 1.4 g, 95% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C(=C(NC2=CC1)C)C)OC | C26H23N3O3
